US04282365
Step B: Methyl o-(p-bromophenoxymethyl)benzoate
Wash 15.12 gm (0.315 mole) of sodium hydroxide, 50% dispersion in oil, free of oil with hexane and suspend in 250 cc. of N,N-dimethylformamide. Add 54.5 gm. (0.315 mole) of p-bromophenol in portions as hydrogen is evolved. After gas evolution has subsided, add a solution of 68 gm. (0.3 mole) of methyl α-bromo-o-toluate in 50 cc. of N,N-dimethylformamide at a rapid dropwise rate. Stir the mixture for 45 minutes and pour into 3 liters of cold water. Separate the solids by filtration, wash with water and dry to obtain 90 gm. of crude methyl o-(p-bromophenoxymethyl)benzoate which is used in the next step without further purification.

reactant | sodium hydroxide | 0.315 mole, 15.12 gm | [OH-].[Na+]
reactant | p-bromophenol | 0.315 mole | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | hydrogen | [H][H] | H2
reactant | methyl α-bromo-o-toluate | 0.3 mole | BrCC=1C(=CC=CC1)C(=O)OC | C9H9BrO2
solvent | water | 3 liters | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | Methyl o-(p-bromophenoxymethyl)benzoate | BrC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C15H13BrO3
